US04810713
4-[3-[4-[Bis(4-fluorophenyl)methyl]-1-piperidinyl]propoxy]benzamide fumarate [2:3]
A mixture of 6.10 g (0.02125 mole) of 4-[bis(4-fluorophenyl)methyl]piperidine and 4.53 g (0.02125 mole) of 4-(3-chloropropoxy)benzamide in 350 ml of 1-butanol containing potassium carbonate (5.53 g, 0.02125 mole) and potassium iodide (0.2 g) was heated overnight at gentle reflux. The reaction was filtered and stripped to dryness. The residue obtained was dissolved in chloroform and extracted with water. The chloroform layer was dried, filtered, and solvent removed to give an oil. This material was converted to the fumarate salt and recrystallized from methanoldiethyl ether. The white crystalline solid obtained was dried in vacuo overnight at 65° C. A yield of 5.47 g (40.3%) of white crystalline product was obtained, m.p. 193°-194° C.

reactant | 4-[bis(4-fluorophenyl)methyl]piperidine | 0.02125 mole, 6.10 g | FC1=CC=C(C=C1)C(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2N
reactant | 4-(3-chloropropoxy)benzamide | 0.02125 mole, 4.53 g | ClCCCOC1=CC=C(C(=O)N)C=C1 | C10H12ClNO2
reactant | potassium carbonate | 0.02125 mole, 5.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.2 g | [I-].[K+]
reactant | 1-butanol | 350 ml | C(CCC)O | C4H10O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-[3-[4-[Bis(4-fluorophenyl)methyl]-1-piperidinyl]propoxy]benzamide fumarate | yield of 5.47 g, 40.3% | C(\C=C\C(=O)O)(=O)O.FC1=CC=C(C=C1)C(C1CCN(CC1)CCCOC1=CC=C(C(=O)N)C=C1)C1=CC=C(C=C1)F | InChI=1S/C28H30F2N2O2.C4H4O4/c29-24-8-2-20(3-9-24)27(21-4-10-25(30)11-5-21)22-14-17-32(18-15-22)16-1-19-34-26-12-6-23(7-13-26)28(31)33;5-3(6)1-2-4(7)8/h2-13,22,27H,1,14-19H2,(H2,31,33);1-2H,(H,5,6)(H,7,8)/b;2-1+
